US05268389
A. Preparation of 1-Methylethyl 5-amino-2-chlorobenzoate
Methanesulfonic acid (99%, 318 g, 3.3 mole) was added slowly to a stirred mixture of 5-amino-2-chlorobenzoic acid (85%, 215 g, 1.1 mole) in 2-propanol (about 1100 ml). The mixture was heated under reflux with stirring for 6 hours, then the excess 2-propanol was evaporated under reduced pressure. Water (about 1000 ml) was added to the residue and the mixture was neutralized with solid sodium bicarbonate and extracted with methylene chloride (about 1200 ml). The extract was washed twice with water, dried over magnesium sulfate and evaporated to give a purple oil, which crystallized on seeding. The product was reprecipitated from dilute hydrochloric acid solution by slowly basifying with concentrated ammonium hydroxide and seeding. The resulting crystals after drying melted at 50.5°-52° C. (170 g, 75% yield).

reactant | Methanesulfonic acid | 3.3 mole, 318 g | CS(=O)(=O)O | CH4O3S
reactant | 5-amino-2-chlorobenzoic acid | 1.1 mole, 215 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 2-propanol | about 1100 ml | CC(C)O | C3H8O
product | 1-Methylethyl 5-amino-2-chlorobenzoate | 75% yield | NC=1C=CC(=C(C(=O)OC(C)C)C1)Cl | C10H12ClNO2
